US04053651
Nα-(3-Mercapto-2-methylpropanoyl)-L-arginine
Nα-(3-Acetylthio-2-methylpropanoyl)-L-arginine (1 g.) is dissolved in a mixture of water (5 ml.) and concentrated ammonia (5 ml.). After one hour at room temperature the solution is concentrated to 3 ml. in vacuo (no heat) and ion exchange resin AG-50 W is added until the pH of approximately 4. The suspension is applied to a column of the same resin and the Nα-(3-mercapto-2-methylpropanoyl)-L-arginine is eluted with pyridine-acetate buffer pH 6.5. The solvent is removed in vacuo and the residue is freeze dried, yield 0.86 g., m.p. 100°.

reactant | Nα-(3-Acetylthio-2-methylpropanoyl)-L-arginine | 1 g | C(C)(=O)SCC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C | C12H22N4O4S
solvent | water | 5 ml | O | H2O
solvent | ammonia | 5 ml | N | H3N
product | Nα-(3-Mercapto-2-methylpropanoyl)-L-arginine | SCC(C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C | C10H20N4O3S
